US05741785
2-Ethoxycarbonyl-8-(1-imidazolyl)-I -methylimidazo[1,2-a]quinoxalin-4(5H)-one
A mixture of 1-(2-amino-5-(1-imidazolyl)phenyl)-4-ethoxycarbonyl-5-methyl-1H-imidazole (1.0 g, 3.2 mmol), 1,1'-carbonyldiimidazole (2.6 g, 16.0 mmol) in 1,2-dichlorobenzene (50 ml) was stirred at 180° C. for 16 h under N2. The precipitate was filtered off and submitted to flash chromatography on silica gel 60 eluting with dichloromethane/methanol (4:1) to give 400 mg (37%) of the title compound. M.p. >250° C.

reactant | 1-(2-amino-5-(1-imidazolyl)phenyl)-4-ethoxycarbonyl-5-methyl-1H-imidazole | 3.2 mmol, 1.0 g | NC1=C(C=C(C=C1)N1C=NC=C1)N1C=NC(=C1C)C(=O)OCC | C16H17N5O2
reactant | 1,1'-carbonyldiimidazole | 16.0 mmol, 2.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | 1,2-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-Ethoxycarbonyl-8-(1-imidazolyl)-I -methylimidazo[1,2-a]quinoxalin-4(5H)-one | 400 mg, 37% | C(C)OC(=O)C=1N=C2N(C3=CC(=CC=C3NC2=O)N2C=NC=C2)C1C | C17H15N5O3
